US06172077B2
5-Trifluoroacetamido-2-benzyloxy-1-bromobenzene
5-Amino-2-benzyloxy-1-bromobenzene hydrochloride (Description 8; 19 g, 60.4 mmol) was suspended in dichloromethane (250 ml) and triethylamine (19 ml, 136.3 mmol) was slowly added. The solution was cooled (0° C.) and a solution of trifluoroacetic anhydride (10.7 ml, 75.8 mmol) in dichloromethane (20 ml) was slowly added. The solution was stirred for 16 hours and water was added. The organic phase was washed with saturated brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by chromatography on silica gel, eluting with hexane/ethyl acetate, to give the title compound as a crystalline solid (21.6 g). 1H NMR (360 MHz, CDCl3) δ 7.79 (1H, d, J 2.6 Hz), 7.76 (1H, br s), 7.5-7.31 (6H, m), 6.9 (1H, d, J 8.9 Hz), and 5.16 (2H, s).

reactant | 5-Amino-2-benzyloxy-1-bromobenzene hydrochloride | 60.4 mmol, 19 g | Cl.NC=1C=CC(=C(C1)Br)OCC1=CC=CC=C1
reactant | triethylamine | 136.3 mmol, 19 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 75.8 mmol, 10.7 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-Trifluoroacetamido-2-benzyloxy-1-bromobenzene | 21.6 g | FC(C(=O)NC=1C=CC(=C(C1)Br)OCC1=CC=CC=C1)(F)F | C15H11BrF3NO2
